US07338960B2
({2-Methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)sulfinyl]phenyl}oxy)acetic acid
A stirred solution of ethyl ({2-methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)sulfinyl]phenyl}oxy)acetate (27 mg, 0.05 mmol) in THF (1 mL) and methanol (1 mL) was added, drop-wise, aqueous NaOH (2M, 1 mL). After 2 hours 50 minutes the mixture was concentrated producing a ‘chalk-white’ solid which was diluted with water (2 mL) and acidified with aqueous HCl (2M, 2 mL). The aqueous layer was extracted with DCM (2×2 mL then 1 mL) using a hydrophobic frit and the combined organic layer concentrated under vacuum yielding the title compound as a mixture of two diastereoisomers (24 mg).

reactant | ethyl ({2-methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)sulfinyl]phenyl}oxy)acetate | 0.05 mmol, 27 mg | CC1=C(C=CC(=C1)S(=O)C(CCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C28H30F3NO4S
reactant | NaOH | 2M, 1 mL | [OH-].[Na+]
reactant | HCl | 2M, 2 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | ({2-Methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)sulfinyl]phenyl}oxy)acetic acid | CC1=C(C=CC(=C1)S(=O)C(CCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O | C26H26F3NO4S
